US08168651B2
5-(3-chlorophenylamino)benzo[c][2,6]naphthyridine-7-carboxylic acid (20 mg) was reacted in NMP (0.4 ml) with HOBt.H2O (40 mg), ammonium chloride (40 mg), DIEA (100 ul) and EDCI (50 mg) at 70° C. for 1 hour. Water was added and the precipitate filtered and dried. After trituration in methanol and filtration, 5-(3-chlorophenylamino)benzo[c][2,6]naphthyridine-7-carboxamide was isolated as a solid (8 mg). LCMS (ES): >95% pure, m/z 349 [M+1]+.

reactant | 5-(3-chlorophenylamino)benzo[c][2,6]naphthyridine-7-carboxylic acid | 20 mg | ClC=1C=C(C=CC1)NC1=NC=2C(C3=CN=CC=C13)=CC=CC2C(=O)O | C19H12ClN3O2
reactant | HOBt | C=1C=CC2=C(C1)N=NN2O | C6H5N3O
reactant | ammonium chloride | 40 mg | [Cl-].[NH4+]
reactant | DIEA | 100 ul | CCN(C(C)C)C(C)C | C8H19N
reactant | EDCI | 50 mg | CCN=C=NCCCN(C)C | C8H17N3
solvent | NMP | 0.4 ml | CN1CCCC1=O | C5H9NO
solvent | Water | O | H2O
solvent | H2O | 40 mg | O | H2O
product | 5-(3-chlorophenylamino)benzo[c][2,6]naphthyridine-7-carboxamide | ClC=1C=C(C=CC1)NC1=NC=2C(C3=CN=CC=C13)=CC=CC2C(=O)N | C19H13ClN4O
